US08114888B2
Preparation of 9-cyclopropyl-6-fluoro-7-(2-(pyridin-2-yl)ethynyl) isothiazolo[5,4-b]quinoline-3,4(2H,9H)-dione (Compound 60)
Pd (PPh3)4 (4.5 mg) is added to a stirred solution of 7-bromo-9-cyclopropyl-6-fluoro-9H-isothiazolo[5,4-b]quinoline-3,4-dione (23 mg, 0.065 mmole) in DMF (1 mL), followed by the addition of 2-ethynylpyridine (2 equivalents, 0.13 mmole) and diisopropyl amine (0.15 mL.) under argon at room temperature. The reaction tube is sealed and then stirred in a microwave (100 W, 90° C.) until complete as monitored by LC/MS. The reaction mixture is filtered and the filtrate concentrated in vacuo. The residue is dissolved in a mixture of DMF: CHCl3: MeOH (1:8:1) and precipitated by adding diethyl ether (1-2 ml). This process is repeated three to five times. The resulting solid, 9-cyclopropyl-6-fluoro-7-(2-(pyridin-2-yl)ethynyl) isothiazolo[5,4-b]quinoline-3,4(2H,9H)-dione, is washed with water to remove salt. The product is dried and analyzed. HPLC may be needed to obtain adequately pure product.

reactant | 7-bromo-9-cyclopropyl-6-fluoro-9H-isothiazolo[5,4-b]quinoline-3,4-dione | 0.065 mmole, 23 mg | BrC1=C(C=C2C(C3=C(N(C2=C1)C1CC1)SNC3=O)=O)F | C13H8BrFN2O2S
reactant | 2-ethynylpyridine | 0.13 mmole, 2 equivalents | C(#C)C1=NC=CC=C1 | C7H5N
reactant | diisopropyl amine | 0.15 mL | C(C)(C)NC(C)C | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd (PPh3)4 | 4.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 9-cyclopropyl-6-fluoro-7-(2-(pyridin-2-yl)ethynyl) isothiazolo[5,4-b]quinoline-3,4(2H,9H)-dione | C1(CC1)N1C2=C(C(C3=CC(=C(C=C13)C#CC1=NC=CC=C1)F)=O)C(NS2)=O | C20H12FN3O2S
